US05750526
812 mg of 9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester is dissolved in 15 ml of dichloromethane and mixed with 531 mg of nitronium tetrafluoroborate at room temperature. It is stirred for 15 hours and concentrated by evaporation. The residue is taken up in ethyl acetate and washed with 5% sodium bicarbonate solution. After column chromatography, 470 mg of 8-nitro-9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester of melting point 254° C. is obtained.

reactant | 9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester | 812 mg | C(C)OP(OCC)(=O)C1CCC=2C=3N1C(C(NC3C=C(C2)C(F)(F)F)=O)=O | C16H18F3N2O5P
reactant | nitronium tetrafluoroborate | 531 mg | F[B-](F)(F)F.O=[N+]=O
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 8-nitro-9-trifluoromethyl-2,3-dioxo-1,2,3,5,6,7-hexahydro-pyrido[1,2,3-de]quinoxaline-5-phosphonic acid diethyl ester | 470 mg | C(C)OP(OCC)(=O)C1CCC=2C=3N1C(C(NC3C=C(C2[N+](=O)[O-])C(F)(F)F)=O)=O | C16H17F3N3O7P
